US08614213B2
Step 1: 5-chloro-2-methylnicotinoyl chloride
5-Chloro-2-methyl-nicotinic acid (4.15 g, 24.2 mmol) is placed in a flask with DCM (100 mL) and oxalyl chloride (3.68 g, 29 mmol). DMF (200 μL) is added and the reaction mixture is stirred at r.t. for 1 hour (gas evolution). The mixture is filtered and the solvent is removed in vacuo to afford the title product which is used in the next step without further purification.

reactant | 5-Chloro-2-methyl-nicotinic acid | 24.2 mmol, 4.15 g | ClC=1C=NC(=C(C(=O)O)C1)C | C7H6ClNO2
reactant | DCM | 100 mL | C(Cl)Cl | CH2Cl2
reactant | oxalyl chloride | 29 mmol, 3.68 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DMF | 200 μL | CN(C)C=O | C3H7NO
product | 5-chloro-2-methylnicotinoyl chloride | ClC=1C=NC(=C(C(=O)Cl)C1)C | C7H5Cl2NO
